US07598263B2
9-[(3-hydroxy-5-methoxyphenyl)amino]-1,2-dihydrothieno[3,2-f]quinoline-8-carbonitrile 3,3-dioxide
65 mg (0.23 mmol) of 9-chloro-1,2-dihydrothieno[3,2-f]quinoline-8-carbonitrile 3,3-dioxide are refluxed together with 39 mg (1.2 eq., 0.28 mmol) of 3-hydroxy-5-methoxyaniline in 2 ml of isopropanol for 2 hours. After the reaction is complete, the crude product is mixed with water and sat. ammonium chloride solution, extracted 3× with dichloromethane/methanol, washed 1× with sat. sodium chloride solution, dried over sodium sulphate and concentrated in vacuo. Final purification of the compound took place by chromatography. 20 mg (22%) of the desired product were obtained.

reactant | 9-chloro-1,2-dihydrothieno[3,2-f]quinoline-8-carbonitrile 3,3-dioxide | 0.23 mmol, 65 mg | ClC1=C(C=NC2=CC=C3C(=C12)CCS3(=O)=O)C#N | C12H7ClN2O2S
reactant | 3-hydroxy-5-methoxyaniline | 0.28 mmol, 39 mg, 1.2 eq. | OC=1C=C(N)C=C(C1)OC | C7H9NO2
reactant | water | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | 9-[(3-hydroxy-5-methoxyphenyl)amino]-1,2-dihydrothieno[3,2-f]quinoline-8-carbonitrile 3,3-dioxide | 20 mg, 22% | OC=1C=C(C=C(C1)OC)NC1=C(C=NC2=CC=C3C(=C12)CCS3(=O)=O)C#N | C19H15N3O4S
